Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Vancomycin / Adhesive / Tegaderm / morphine / Dilaudid / 
Tagrisso
 
Attending: ___.
 
Chief Complaint:
PRIMARY ONCOLOGIST: Dr. ___

PRIMARY DIAGNOSIS: Metastatic NSCLC

TREATMENT REGIMEN: Erlotinib

CC: ___
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ female with hypertension, 
hypothyroidism, osimertinib-induced cardiomyopathy (EF ___ in 
___, PE on lovenox and metastatic NSCLC (EGFR positive) on 
Erlotinib who presents with dyspnea.

Patient reports several days of worsening dyspnea at both rest 
and exertion. Also notes worsening cough with some sputum 
production. She notes central chest pain that is worse with deep 
breaths, coughing, and exertion. She has been unable to sleep 
due to her shortness of ___.

On arrival to the ED, initial vitals were 97.8 94 127/72 26 96% 
RA. Exam was notable for diminished ___ sounds at left base. 
Labs were notable for WBC 7.1, H/H 11.3/35.5, Plt 354, INR 1.1,
Na 139, K 4.5, BUN/Cr ___, ALT 45, AST 48, ALP 169, Tbili 
0.5,
BNP 6181, trop < 0.01, lactate 1.0, VBG 7.37/46/34, and UA 
negative. Urine culture was sent. Influenza PCR was negative. 
CXR showed stable small bilateral pleural effusions, increased 
interstitial edema, and stable opacities within the left upper 
and lower lungs. CTA chest showed non-enhancing solid and 
ground-glass opacities at the right middle/lower lobe suspicious 
for pneumonia, mild volume overload, no PE, and interval disease
progression. EKG with SR at 95 and LBBB. Patient was given Zosyn 
4.5g IV, Toradol 30mg IV, and Tylenol 1g PO. Prior to transfer 
vitals were 98.5 89 131/81 16 97% 2L.

On arrival to the floor, patient reports headache which is now 
improved. Also reports some abdominal cramps and mild diarrhea 
in the ED after she was given antibiotics. She denies 
fevers/chills, headache, vision changes, 
dizziness/lightheadedness, weakness/numbness, hemoptysis, chest 
pain, palpitations, nausea/vomiting, hematemesis, 
hematochezia/melena, dysuria,
hematuria, and new rashes.

REVIEW OF SYSTEMS: A complete 10-point review of systems was 
performed and was negative unless otherwise noted in the HPI.

 
Past Medical History:
PAST ONCOLOGIC HISTORY:
- Presented with back pain ___, referred for physical therapy
- MRI of the back ___ showed left lower lung mass
- ___: Chest CT: mass in superior segment of the left lower
lobe with associated lung collapse
- ___: PET-CT: FDG-positive mass in the left lower lobe
without any uptake in the mediastinum or elsewhere.  
- ___: Mediastinoscopy with biopsy of mediastinal lymph 
nodes
at level 4R, 4L and 2R, all positive for adenocarcinoma. Biopsy
from the left lower lobe lesions confirmed adenocarcinoma
- EGFR positive
- ___: Bone biopsy negative for malignancy
- ___: CXR showed pleural effusion, no thoracentesis done
- ___: Concomitant chemoradiation with cisplatin/etoposide
for 2 cycles
- ___: Cisplatin/Alimta for 2 cycles 
- ___: PET scans with decreased FDG-avidity; no
evidence of tumor recurrence
- ___: PET with new left pleural effusion; thoracentesis
shows that cytology is positive for adenocarcinoma.
- ___: Took Tarceva 150 mg PO daily; developed
dehydration, extreme fatigue, nausea, diarrhea resulting in a
hospitalization from ___ stopped Tarceva
- ___: Talc pleurodesis and pleurex catheter placement for
management of malignant pleural effusion, catheter was pulled
prior to discharge
- ___: Resumed Tarceva at a dose of 100 mg daily, developed
intolerable side effects of fatigue, nausea, sweats, and
discontinued it on ___.
- ___: Presented with pericarditis and a small pericardial
effusion developed which waxed and waned but was never tapped.
- ___: Restarted Tarceva 25 mg daily
- ___: Increased Tarceva to 50 mg daily
- ___: CT with overall stable disease, slight enlargement of
the left hilar mass.
- ___: CT with decrease in size of left hilar mass
- ___: CT with stable disease
- ___: CT with stable disease
- ___: CT with stable disease
- ___: CT with stable disease
- ___ CT chest essentially stable disease
- ___: Imaging with essentially stable disease
- ___: Admitted for submassive PE; placed on
Enoxaparin
- ___: CT scan showed increased in size of tumor
- ___: CT scan showed increased osteoblastic lesions of the
spine and right pelvis
- ___: PET scan shows increased FDG avid disease in the 
chest
and left hilum as well as uptake in multiple bony sites in the T
and L spine and the pelvic
- ___: Repeat biopsy of lung lesion, sent for T790M mutation
testing
- ___: Completed ___ fractions of radiation to L2-R hip
- ___: T790M mutation reviewed in clinic - result negative.
Increasing erlotinib to 75mg daily
- ___: CT TORSO shows improvement in thoracic disease 
burden
and stable bony disease
- ___: CT TORSO shows stable disease
- ___: Interval increase in size of a left lower lobe soft
tissue mass abutting the aorta, now measuring up to 3.9 cm and
previously measuring up to 2.7 cm.
- ___: CT shows decrease in size of the previously growing
soft tissue mass next to the thoracic aorta. She has no clear
evidence of progression elsewhere, but 2 tiny nonspecific right
lung nodules. Continued erlotinib at 75mg QD
- ___: CT torso with stable disease, progressive
cough/SOB/hemoptysis led to admission from ___ - ___ ___/P negative for PE, ___ embolization failed d/t dissection or
spasm. Restarted on daily therapeutic lovenox prior to discharge
w/o hemoptysis. Started on robitussin DM QD and codeine QHS.
Hypotensive response to dilaudid. IP bx'd LUL mass for 
mechanisms
of resistance.
- ___: Seen in clinic with progressive fatigue, back pain.
Given concern for progression we send liquid biopsy, which
revealed a 0.73% allele frequency of her initial EGFR mutation,
negative for T790M but not a rule out given allele frequency 
<1%.
- ___: MRI spine with new likely metastatic T4 lesion,
otherwise stable mets; no compression/stenosis 
- ___: Started osimertinib 80mg QD, initially very
fatigued/dehydrated so spaced to QOD
- ___: CT Torso with stable disease
- ___: CT Torso with stable disease
- ___: New SOB, DOE TTE with EF 42% globally depressed;
stress and regadenason mibi with no areas of reversible ischemia 

- ___: CT Torso with stable disease
- ___: TTE with EF down to 24%; non dilated, severely
hypokinetic left ventricle. Normal right ventricular size and
systolic function. Mild pulmonary artery systolic hypertension.
- ___: Cardiac MRI with dilated LV with severe global
systolic dysfunction and IV dysynchrony. Normal RV, no late gad
enhancement c/w absence of scar/fibrosis. B/l pleural effusions.
- ___: Called to recommend stopping osimertinib given c/f
drug-induced CMP. Pt held beginning ___.
- ___: CT torso with stable disease
- ___: PET/CT torso with progressive osseous disease with
increased number and extent of metastatic lesions throughout the
axial skeleton; stable innumerable small bilateral pulmonary
lesions; stable L hilar soft tissue mass. Recommended biopsy of
progressing osseous met, but pt delayed procedure given she felt
symptomatically stable.
- ___: Admitted for worsening bone pain. MRI
T/L-spine with significant progression of disease within the
spine, sacral/iliac lesions appeared unchanged. Most concerning
was epidural extension of tumor causing mild neural foraminal
narrowing at T11/12 and T12/L1. On ___ underwent ___ iliac 
biopsy
for mechanism of resistance (vertebral biopsy felt too
technically difficult). Foundation Once CDX from ___ iliac
biopsy without identified mechanism of resistance 
(redemonstrated
founder EGFRexon 19 deletion (L747_A750>P) and showed BAP1 and
BCOR muts as well as FGF10 and RICTOR amplification); reported
___. She underwent 2000cGy palliative radiation to T10-L1
during that hospitalization.
- ___: Admitted with sudden onset SOB, CTA chest
with no PE nor interval change in findings compared to ___
PET/CT. SOB improved with morphine administration and holding
Tarceva.

PAST MEDICAL HISTORY:
- Osimertinib-Induced Cardiomyopathy (EF ___ in ___
- Hypertension
- Hypothyroidism
- PE on lovenox
- Osteoporosis

 
Social History:
___
Family History:
No family history of cancer.
 
Physical Exam:
ADMISSION EXAM
VS: Temp 98.3, BP 132/75, HR 87, RR 18, O2 sat 94% RA.
GENERAL: Pleasant fatigued-appearing woman, in no distress, 
lying
in bed comfortably.
HEENT: Anicteric, PERLL, OP clear.
CARDIAC: RRR, no murmurs.
LUNG: Appears in no respiratory distress, R>L bibasilar 
crackles,
speaking in full sentences.
ABD: Soft, non-tender, non-distended, positive bowel sounds.
EXT: Warm, well perfused, 1+ R>L lower extremity edema.
NEURO: A&Ox3, good attention and linear thought, gross strength
and sensation intact.
SKIN: No significant rashes.

DISCHARGE EXAM
24 HR Data (last updated ___ @ 743)
    Temp: 98.2 (Tm 98.8), BP: 126/72 (91-126/55-76), HR: 103
(86-103), RR: 17 (___), O2 sat: 96% (94-99), O2 delivery: RA,
Wt: 133.9 lb/60.74 kg  
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
MMMs
CV: mild tachy, prominent S2 splitting
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation. 
SKIN: No rashes or ulcerations noted
EXTR: wwp mild bilateral edema
NEURO: Alert, interactive, face symmetric, gaze conjugate with
EOMI, speech fluent, motor function grossly intact/symmetric
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
LABS:

___
___ 07:57PM BLOOD WBC-7.1 RBC-3.99 Hgb-11.3 Hct-35.5 MCV-89 
MCH-28.3 MCHC-31.8* RDW-15.3 RDWSD-49.6* Plt ___
___ 05:05AM BLOOD WBC-6.9 RBC-3.50* Hgb-9.8* Hct-30.7* 
MCV-88 MCH-28.0 MCHC-31.9* RDW-15.3 RDWSD-49.2* Plt ___
___ 05:05AM BLOOD WBC-5.6 RBC-3.68* Hgb-10.2* Hct-32.5* 
MCV-88 MCH-27.7 MCHC-31.4* RDW-15.4 RDWSD-50.0* Plt ___
___ 05:05AM BLOOD WBC-6.0 RBC-3.78* Hgb-10.6* Hct-33.5* 
MCV-89 MCH-28.0 MCHC-31.6* RDW-15.4 RDWSD-50.0* Plt ___

COAG
___ 07:57PM BLOOD ___ PTT-30.4 ___

BMP
___ 07:57PM BLOOD Glucose-108* UreaN-12 Creat-0.7 Na-139 
K-4.5 Cl-103 HCO3-24 AnGap-12
___ 05:05AM BLOOD Glucose-88 UreaN-11 Creat-0.6 Na-138 
K-3.7 Cl-104 HCO3-21* AnGap-13
___ 05:05AM BLOOD Glucose-112* UreaN-12 Creat-0.6 Na-137 
K-4.5 Cl-102 HCO3-24 AnGap-11
___ 05:05AM BLOOD Glucose-89 UreaN-12 Creat-0.6 Na-138 
K-4.5 Cl-101 HCO3-24 AnGap-13

OTHER CHEM
___ 07:57PM BLOOD ALT-45* AST-48* AlkPhos-169* TotBili-0.5
___ 07:57PM BLOOD proBNP-6181*
___ 07:57PM BLOOD cTropnT-<0.01
___ 07:57PM BLOOD Albumin-3.9 Calcium-8.8 Phos-2.8 Mg-1.9
___ 05:05AM BLOOD Calcium-8.1* Phos-3.1 Mg-2.0
___ 05:05AM BLOOD Calcium-8.3* Phos-3.1 Mg-1.9
___ 05:05AM BLOOD Calcium-8.8 Phos-4.0 Mg-2.0
___ 07:57PM BLOOD ___ pO2-34* pCO2-46* pH-7.37 
calTCO2-28 Base XS-0

MICROBIOLOGY:
___ Influenza A/B PCR - Negative
___ Urine Culture - CONTAMINATED
___ Blood cx x2 - NGTD

___ 3:02 pm SPUTUM      Source: Expectorated. 
   GRAM STAIN (Final ___: 
      <10 PMNs and <10 epithelial cells/100X field. 
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S). 
      QUALITY OF SPECIMEN CANNOT BE ASSESSED. 
   RESPIRATORY CULTURE (Preliminary): 
      SPARSE GROWTH Commensal Respiratory Flora. 

IMAGING:
CXR ___
Impression: Similar extent of small bilateral pleural effusions. 
Increased interstitial edema. Stable opacities within the left 
upper and lower lungs, better assessed on prior CT.

CTA Chest ___
1. No evidence of pulmonary embolism or aortic abnormality.
2. Non-enhancing solid and ground-glass opacities at the right 
middle/lower lobe are suspicious for pneumonia in the 
appropriate clinical setting. These changes are seen on a 
background of mild volume overload.
3. Findings are also consistent with interval disease 
progression including the appearance of new pulmonary nodules 
and interval enlargement of others. The known left hilar mass 
appears similar in size with persistent left upper lobe 
collapse.
4. Similar appearance of a loculated left apical pleural 
effusion with a new small right pleural effusion.
5. Interval partial height loss of the T4 vertebral body and 
increased sclerosis concerning for disease involvement. 

TTE ___
The left atrial volume index is normal. The estimated right 
atrial pressure is ___ mmHg. There is mild symmetric left 
ventricular hypertrophy with a normal cavity size. There is 
visual left ventricular dyssnchrony. Overall left ventricular 
systolic function is severely depressed. The visually estimated 
left ventricular ejection fraction is ___. There is no 
resting left ventricular outflow tract gradient. Normal right 
ventricular cavity size with normal free wall motion. There is 
abnormal septal motion c/w conduction abnormality/paced rhythm. 
The aortic sinus diameter is normal for gender with a normal 
ascending aorta diameter for gender. The aortic arch diameter is 
normal with a normal descending aorta diameter. The aortic valve 
leaflets (3) appear structurally normal. There is no aortic 
valve stenosis. There is mild [1+] aortic regurgitation. The 
mitral valve leaflets are mildly thickened with no mitral valve 
prolapse. There is an eccentric jet of mild to moderate [___] 
mitral regurgitation. Due to the Coanda effect, the severity of 
mitral regurgitation could be UNDERestimated. The pulmonic valve 
leaflets are normal. The tricuspid valve leaflets appear 
structurally normal. There is physiologic tricuspid 
regurgitation. The estimated pulmonary artery systolic pressure 
is normal. There is a trivial pericardial effusion.
IMPRESSION: Severe LV global hypokinesis (LVEF ___ with 
visual dyssynchrony. Mild to moderate eccentric MR. ___ AR.
___ with the prior TTE ___ , the LVEF is likely 
similar but overestimated on the previous study in the setting 
of suboptimal image quality.

 
Brief Hospital Course:
___ year old woman with HTN, hypothyroidism, metastatic lung 
adenocarcinoma (EGFR positive) on Erlotinib, PE on Lovenox, 
osimertinib-induced cardiomyopathy (EF ___ in ___, who 
presented with dyspnea due to CHF and suspected PNA.

# Shortness of ___, cough
# CAP
# Acute on Chronic HFrEF:
  Ms. ___ presented with dyspnea, cough.  Exam was notable for 
being afebrile, O2 sats 96% on RA. Labs were notable for WBC 
7.1, Influenza PCR neg.  She clearly  appeared dyspneic with 
minimal exertion.  CTA showed RML/RLL GGO suspicious for PNA (no 
PE).  
   There were also signs of acute on chronic sCHF - which 
included elevated BNP 6181 (increased from prior), weight up ___ 
lbs (139.7 lbs from 134 lbs), ___ edema.  It is likely that 
the addition of dexamethasone may have contributed to retained 
sodium/fluid intake.
   She was initially treated for CAP with IV CTX and 
azithromycin and then transitioned to cefpodoxime/azithromycin 
to complete 5 day course.  She was also given IV lasix ___ mg 
daily with good response.  The goal wt 133-134 lbs.   Her 
discharge weight was 133.9 lbs.   Discharged on Lasix 20 mg 
daily (an increase from 10 mg daily - which she reports she 
takes). She was counseled on checking daily weights, watching 
for edema, and calling her doctors with any significant changes 
or concerns. 
   She had a TTE that was overall similar although EF estimated 
as ___ instead of ___ (felt to be more due to poor quality 
of prior images than true change).  She continued to be treated 
with Duonebs PRN, home Entresto and metoprolol, Benzonatate and 
guaifenesin PRN.   Overall, her breathing improved dramatically 
by the time of discharge.  She was discharged in good stable 
condition. 

# Metastatic NSCLC:
# Secondary Neoplasm of Bone:
# Secondary Neoplasm of Lung: Patient with progression while on 
erolotinib. Plan was to potentially start Pemetrexed-containing 
therapy. Patient initially wished to defer starting chemotherapy 
until ___ however is now interested in sooner given 
worsening symptoms.  Outpt oncology doctor ___ Ms. ___ 
while in the hospital.  She is due for outpatient brain MRI and 
PET/CT. She was continued on folate and B12

# Cancer-Related Pain
- Continued MS contin and oxycodone

# Cancer-Related Fatigue
- Continued home dexamethasone

# Pulmonary Embolism
- Continued home lovenox ___ daily

# Hypothyroidism
- Continued home Synthroid

=====================

TRANSITIONAL ISSUES:

- continued titration of lasix as outpatient

- close follow-up with oncology and cardiology

=====================

>30 minutes in patient care and coordination of discharge

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Benzonatate 100 mg PO TID:PRN cough 
2. Levothyroxine Sodium 137 mcg PO DAILY 
3. Metoprolol Succinate XL 12.5 mg PO DAILY 
4. Morphine SR (MS ___ 15 mg PO Q12H 
5. Multivitamins 1 TAB PO DAILY 
6. Omeprazole 20 mg PO DAILY 
7. OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - Moderate 

8. PARoxetine 10 mg PO DAILY 
9. Sacubitril-Valsartan (24mg-26mg) 1 TAB PO BID 
10. Cyanocobalamin 1000 mcg PO DAILY 
11. Dexamethasone 2 mg PO DAILY 
12. Furosemide 10 mg PO DAILY 
13. Enoxaparin (Treatment) 100 mg SC Q24H 
14. Erlotinib 50 mg PO DAILY 
15. FoLIC Acid 1 mg PO DAILY 

 
Discharge Medications:
1.  Azithromycin 250 mg PO DAILY Duration: 2 Doses 
RX *azithromycin 250 mg 1 tablet(s) by mouth once a day Disp #*2 
Tablet Refills:*0 
2.  Cefpodoxime Proxetil 200 mg PO BID Duration: 3 Days 
RX *cefpodoxime 200 mg 2 tablet(s) by mouth twice a day Disp #*5 
Tablet Refills:*0 
[ clarified with pharmacy this was actually 1 tablet twice daily 
] 
3.  Furosemide 20 mg PO DAILY 
RX *furosemide 20 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
4.  Benzonatate 100 mg PO TID:PRN cough  
5.  Cyanocobalamin 1000 mcg PO DAILY  
6.  Dexamethasone 2 mg PO DAILY  
7.  Enoxaparin (Treatment) 100 mg SC Q24H  
8.  Erlotinib 50 mg PO DAILY  
9.  FoLIC Acid 1 mg PO DAILY  
10.  Levothyroxine Sodium 137 mcg PO DAILY  
11.  Metoprolol Succinate XL 12.5 mg PO DAILY  
12.  Morphine SR (MS ___ 15 mg PO Q12H  
13.  Multivitamins 1 TAB PO DAILY  
14.  Omeprazole 20 mg PO DAILY  
15.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate  
16.  PARoxetine 10 mg PO DAILY  
17.  Sacubitril-Valsartan (24mg-26mg) 1 TAB PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute on chronic systolic heart failure
Pneumonia
Lung cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

   It was a pleasure looking after you.  As you know, you were 
admitted with shortness of ___ and a cough.  Chest x-ray and 
blood tests here revealed that the breathing difficulties were 
caused by a combination of congestive heart failure and 
pneumonia. 
 
   You were treated with diuretics with good response.  Your 
final weight was approximately 133 lbs...  Please follow your 
weight and maintain in this range, if possible.  It is possible 
that the dexamethasone has contributed to some fluid retention.  
As a result, your home lasix dose was increased to 20 mg daily.  
Weigh yourself every morning, and call your doctor if your 
weight goes up more than 3 lbs.

   Please complete the short course of oral antibiotics to fully 
treat the pneumonia.  

   Again, it was a pleasure and we wish you quick recovery and 
good health.  

 Your ___ Team 
 
Followup Instructions:
___